US04382939
8-Phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 1 from 3-phenylphenol (17 g, 0.1 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (19.3 g, 0.1 moles). The crude material is washed with water and dried to give the product (15 g), mp 250°-270° C.

reactant | 3-phenylphenol | 0.1 moles, 17 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.1 moles, 19.3 g | Cl.O=C1C(CNCC1)C(=O)OC
product | 8-Phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 15 g | C1(=CC=CC=C1)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C18H15NO2
